US08486968B2
(c) 2-{2,6-Dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester
A mixture of 6-methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid ethylester (2.80 g, 7.92 mmol), N-(2,4-dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide (2.76 g, 8.72 mmol) and MeCN (60 mL) is stirred overnight, concentrated and triturated with MeCN and Et2O. The resulting solid is diluted with 60 mL MeCN and DIC (1.06 mL, 6.8 mmol) is added and it is stirred for 3 h at 60° C. The crude mixture is concentrated, diluted with EtOAc, washed with water, dried with Na2SO4, filtered, concentrated and purified by flash chromatography (silica; PE:EtOAc 3:1->1:1). Yield: 4.04 g. HPLC Rt=1.56 min (method D). MS m/z: 629 [M+H]+.

reactant | 6-methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid ethylester | 7.92 mmol, 2.80 g | C(C)OC(C1=C(N=C(C(=C1)N)NC)N1CCC(CC1)C(F)(F)F)=O | C15H21F3N4O2
reactant | N-(2,4-dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | 8.72 mmol, 2.76 g | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1N=C=S)Cl | C13H14Cl2N2OS
reactant | DIC | 6.8 mmol, 1.06 mL | CC(N=C=NC(C)C)C | C7H14N2
solvent | MeCN | 60 mL | CC#N | C2H3N
solvent | MeCN | 60 mL | CC#N | C2H3N
product | 2-{2,6-Dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2C(=NC1N1CCC(CC1)C(F)(F)F)N(C(=N2)NC2=C(C(=CC=C2Cl)CNC(C(C)(C)C)=O)Cl)C | C28H33Cl2F3N6O3
